US08071768B2
b. 4-(6-Fluoro-7-morpholin-4-yl-quinazolin-4-yl)-piperidine-1-carboxylic acid (4-pyrrolidin-1-yl-phenyl)-amide
The title compound was prepared from 4-(6-Fluoro-7-morpholin-4-yl-quinazolin-4-yl)-piperidine-1-carboxylic acid tert-butyl ester, prepared as described in Example 210a, and (4-pyrrolidin-1-yl-phenyl)-carbamic acid 4-nitro-phenyl ester hydrochloride, prepared as described in Example 74a, using essentially the protocol given for Example 170c. 1H-NMR (400 MHz, CDCl3) δ 9.12 (s, 1H), 7.70 (d, 1H), 7.38 (d, 1H), 7.18 (m, 2H), 6.52 (m, 2H), 6.24 (s, 1H), 4.26 (m, 2H), 3.93 (m, 4H), 3.51 (tt, 1H), 3.31 (m, 4H), 3.26 (m, 4H), 3.11 (td, 2H), 2.17-2.05 (m, 2H), 2.03-1.90 (m, 6H). LC/MS (ESI): calcd mass 504.3, found 505.3.

reactant | 4-(6-Fluoro-7-morpholin-4-yl-quinazolin-4-yl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NC=NC2=CC(=C(C=C12)F)N1CCOCC1 | C22H29FN4O3
reactant | (4-pyrrolidin-1-yl-phenyl)-carbamic acid 4-nitro-phenyl ester hydrochloride | Cl.[N+](=O)([O-])C1=CC=C(C=C1)OC(NC1=CC=C(C=C1)N1CCCC1)=O
product | 4-(6-Fluoro-7-morpholin-4-yl-quinazolin-4-yl)-piperidine-1-carboxylic acid (4-pyrrolidin-1-yl-phenyl)-amide | N1(CCCC1)C1=CC=C(C=C1)NC(=O)N1CCC(CC1)C1=NC=NC2=CC(=C(C=C12)F)N1CCOCC1 | C28H33FN6O2
